US08202856B2
Step 1: tert-butyl (3-cyanobenzyl)carbamate
3-Cyanobenzylamine hydrochloride (1 g; 5.93 mmol; 1 eq.) and di-tert-butyl dicarbonate (1.42 g; 6.52 mmol; 1.1 eq.) were dissolved in DCM (10 ml) and triethylamine (1.64 ml; 11.86 mmol; 2 eq.) was added. The reaction mixture was stirred at RT overnight. The reaction mixture was diluted with DCM and the organic phase was washed with water, aqueous saturated solution of NH4Cl and brine, dried over MgSO4 and evaporated. The resulting crude product was purified by flash chromatography (SiO2: 30 g; cyclohexane/EtOAc gradient from 95/5 till 30/70), affording the title compound as translucent oil (1.09 g; 79.13%). 1H NMR (DMSO-d6, 300 MHz) δ 7.59-7.39 (m, 4H), 4.94 (br s, 1H), 3.39-4.31 (m, 2H), 1.46 (s, 9H). HPLC (Method A) Rt 3.77 min (Purity: 99%).

reactant | 3-Cyanobenzylamine hydrochloride | 5.93 mmol, 1 g, 1 eq. | Cl.C(#N)C=1C=C(CN)C=CC1
reactant | di-tert-butyl dicarbonate | 6.52 mmol, 1.42 g, 1.1 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 11.86 mmol, 1.64 ml, 2 eq. | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (3-cyanobenzyl)carbamate | 1.09 g, 79.13% | C(#N)C=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C13H16N2O2
